US08476286B2
A. Synthesis of 1-benzyl-6-hydroxy-4-(4-isopropyl-phenyl)-1H-quinazolin-2-one
A solution of 470 mg (1.22 mmol) of 1-benzyl-4-(4-isopropyl-phenyl)-6-methoxy-1H-quinazolin-2-one in 5 ml anhydrous THF is treated at 0° C. dropwise with 2.44 ml 1.0 M (2.44 mmol; 2 eq.) boron tribromide solution (in methylene chloride). After complete addition, the mixture is allowed to come to rt and stirred for 4 h. The yellow-red solution is poured into water and extracted with CH2Cl2. Concentration in vacuo afforded a yellow solid. yield: 360 mg (80%). m.p.>270° C.

reactant | 1-benzyl-4-(4-isopropyl-phenyl)-6-methoxy-1H-quinazolin-2-one | 1.22 mmol, 470 mg | C(C1=CC=CC=C1)N1C(N=C(C2=CC(=CC=C12)OC)C1=CC=C(C=C1)C(C)C)=O | C25H24N2O2
reactant | boron tribromide | 2.44 mmol, 1.0 M, 2.44 ml, 2 eq. | B(Br)(Br)Br | BBr3
reactant | water | O | H2O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 1-benzyl-6-hydroxy-4-(4-isopropyl-phenyl)-1H-quinazolin-2-one | C(C1=CC=CC=C1)N1C(N=C(C2=CC(=CC=C12)O)C1=CC=C(C=C1)C(C)C)=O | C24H22N2O2
